US05866586
3-Chloro-2-methylthio-5-nitropyridine (D5)
2,3-Dichloro-5-nitropyridine (7.90 g, 0.041 mol) (Synthesis, 1990, 499) was dissolved in ethanol (150 ml) and was treated with thiourea (3.43 g, 0.045 mol). The resultant mixture was then heated to reflux with stirring under argon. After 3 h, the reaction mixture was allowed to cool, and was left stirring at room temp. for 16 h. 10% Sodium hydroxide solution (160 ml) was then added and the reaction mixture was heated to reflux with stirring. After 1 h, the reaction mixture was cooled to 10° C., and methyl iodide (2.80 ml, 0.045 mol) was added. After 1 h, the resultant precipitate was filtered off to give the title compound as an orange solid (5.90 g, 70%).

reactant | 2,3-Dichloro-5-nitropyridine | 0.041 mol, 7.90 g | ClC1=NC=C(C=C1Cl)[N+](=O)[O-] | C5H2Cl2N2O2
reactant | thiourea | 0.045 mol, 3.43 g | NC(=S)N | CH4N2S
reactant | Sodium hydroxide | 160 ml | [OH-].[Na+]
reactant | methyl iodide | 0.045 mol, 2.80 ml | CI | CH3I
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-Chloro-2-methylthio-5-nitropyridine | 5.90 g, 70% | ClC=1C(=NC=C(C1)[N+](=O)[O-])SC | C6H5ClN2O2S
